US06121399
Synthesis and Purification of 1-acetoxy-2-methoxy-3-butene
In a 3-liter, 3-necked round bottom flask equipped with a mechanical stirrer, nitrogen inlet, temperature probe and vigoreux column was placed 1200 mL toluene, sodium acetate (88.59 g, 1.08 mol) and 2-methoxy-3-buten-1-ol (250.0 g, 2.45 mol). Mixture heated to 60° C. with stirring. Once temperature had stabilized, acetic anhydride (288.83 g, 2.80 mol) added dropwise over 2.5 hours. Maintained temperature for 1.5 hrs then increased temperature to 70° C. for 1 hour. Gas chromatography showed no trace of starting material in reaction. Began cooling reaction to room temperature. When reaction had cooled to 38° C., one liter of a 5% sodium bicarbonate solution was added at high speed to decompose any excess acetic anhydride remaining in the reaction. Extracted reaction twice with water, layers separated, the aqueous layer extracted twice with toluene and added to the organic layer. Organic layer dried with anhydrous magnesium sulfate, filtered and concentrated by rotovap. Yield 222.43 g (63.0%) of a clear, colorless material. 1H NMR consistent with 1-acetoxy-2-methoxy butene.

reactant | sodium acetate | 1.08 mol, 88.59 g | C(C)(=O)[O-].[Na+]
reactant | 2-methoxy-3-buten-1-ol | 2.45 mol, 250.0 g | COC(CO)C=C | C5H10O2
reactant | acetic anhydride | 2.80 mol, 288.83 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 1200 mL | C1(=CC=CC=C1)C | C7H8
product | 1-acetoxy-2-methoxy-3-butene | C(C)(=O)OCC(C=C)OC | C7H12O3
